### PR TITLE
Get rid of precondition on LENGTH_TL and make it a default rewrite

### PR DESCRIPTION
**Pull request by ordinarymath**
Also make some other theorems simp

### CODE REVIEW

File: src/list/src/listScript.sml [hunk 1]
```diff
@@ -1136,10 +1136,10 @@ Proof
 GEN_TAC THEN Induct THEN SRW_TAC[] [FOLDR, MAP]
 QED
 
-Theorem LENGTH_TL:
-   !l. 0 < LENGTH l ==> (LENGTH (TL l) = LENGTH l - 1)
+Theorem LENGTH_TL[simp]:
+   !l. (LENGTH (TL l) = LENGTH l - 1)
```
Comment (dnezam) [inline src/list/src/listScript.sml]: I think it should be possible to remove the parentheses now that the implication is gone.

**Comment by ordinarymath** [comment]
bin/build -t works. -t3 is definitely still broken thou

**Comment by ordinarymath** [comment]
bin/build -t3 works locally

**Comment by ordinarymath** [comment]
The last push was for removing the stuff that I added accidentally

**Comment by mn200** [comment]
Thanks!
